US04146631
Methyl 2,4-dihydroxybenzoate (prepared from 2,4-dihydroxybenzoic acid by the general method of Brunner (Monatsh. 1913, 34, 916) (12 g) was treated with methyl iodide (12.2 g) and anhydrous potassium carbonate (4.95 g) in dry sulpholane (140 ml) at 60°-70° C. After 8 hours, further methyl iodide (12.2 g) was added and heating was continued for 14 hours. The excess of methyl iodide was evaporated and the mixture was poured into a mixture of ice and water (1 liter) and the mixture was acidified with aqueous acetic acid (2N). The separated solid was filtered off and washed with water to give methyl 2-hydroxy-4-methoxybenzoate (10.8 g), m.p. 47°-50° C. [a sample of which, purified by chromatography on silica gel (eluting with chloroform), had the melting point 49°-51° C⟧ The said crude methyl 2-hydroxy-4-methoxybenzoate (2.0 g) was heated with benzyl chloride (1.88 g) and anhydrous potassium carbonate (0.76 g) in dry sulpholane (15 ml) at 100° C. for 16 hours and was then poured into a mixture of ice and water (300 ml). The mixture was extracted with diethyl ether and the extract was washed with several portions of aqueous sodium hydroxide solution (0.5N) at 0° C., and was then dried and evaporated to give crude methyl 2-benzyloxy-4-methoxybenzoate (2.5 g) in the form of an oil. This material was heated at reflux with a mixture of aqueous sodium hydroxide solution (2N; 100 ml) and ethanol (20 ml) for 3 hours. The mixture was then treated with water (100 ml) and then cooled and extracted with diethyl ether (2 × 50 ml). The aqueous layer was cooled to 10° C. and acidified to pH 2 by treatment with concentrated hydrochloric acid to give 2-benzyloxy-4-methoxybenzoic acid (1.6 g), m.p. 99°-101° C.

reactant | Methyl 2,4-dihydroxybenzoate | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | 2,4-dihydroxybenzoic acid | OC1=C(C(=O)O)C=CC(=C1)O | C7H6O4
reactant | methyl iodide | 12.2 g | CI | CH3I
reactant | potassium carbonate | 4.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 12.2 g | CI | CH3I
solvent | sulpholane | 140 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | methyl 2-hydroxy-4-methoxybenzoate | 10.8 g | OC1=C(C(=O)OC)C=CC(=C1)OC | C9H10O4
